Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Back Pain, persistently elevated CRP
 
Major Surgical or Invasive Procedure:
___ CT-Guided Thoracentesis

 
History of Present Illness:
___ yo M with ESRD on HD (MWF), cricopharyngeal hypertrophy with
placement of G-tube for feeding (admitted to ___ ___ to 
___,
CHF, chronic lower back pain, pericardial tamponade s/p drain
___. He was referred into the ED for worsening back pain
radiating into both legs and rising CRP/ESR despite being on
broad-spectrum antibiotic therapy. 

Osteomyelitis course: 
- presented with back and RLE pain on ___, CRP 93 
- MRI showed "1. Findings compatible with osteomyelitis discitis
at L4-L5. 2. Anterior epidural phlegmon formation at L4-L5. 3. 
No
significant change in severe spinal canal and neural foraminal
narrowing at L4-L5. 4. Previously described abnormal fluid 
signal
within the psoas muscles and small microabscesses are better
characterized on the prior MRI lumbar spine study." 
- underwent bone biopsy that is culture negative 
- started on HD-dosed vanc ceftaz, on which he has continued
- CRP on ___
- worsening back pain, leg pain unclear since pt is wheelchair
bound and urinary symptoms unclear since he doesn't make urine 
- CRP on ___ 

On arrival to the floor, patient appears lethargic but
comfortable. He interacts appropriately. He reports his back 
pain
is currently a ___, was ___ when he first presented to the ED,
and is localized to his lower back and somewhat in his legs. He
denies fever, chest pain, shortness of breath, cough, abdominal
pain, nausea/vomiting, and doesn't make urine. He reports he
thinks he's lost weight over the past few months but isn't sure
how much. He reports he hasn't walked in months. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension (+)
2. CARDIAC HISTORY  
- cath in ___ mild coronary disease 
- echo ___ LVEF >55% 
- sinus rhythm 
3. OTHER PAST MEDICAL HISTORY  
-ESRD on HD MWF  
-Gout  
-Erectile dysfunction  
-Cricopharyngeal hypertonicity/hypertrophy
-C4-C5 diffuse idiopathic skeletal hyperostosis (DISH)
-Left subclavian steal syndrome
-Gastritis 
 
Social History:
___
Family History:
-Denies family hx of CAD, MI, CVA, kidney disease, cancer.
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.1 F, BP 141/62, HR 75, RR 18, 95 Ra 
GENERAL: NAD, appears sleepy, A/Ox3 
HEENT: AT/NC, EOMI, PERRL, bilateral cataracts, pupils 1-2 mm
bilaterally, anicteric sclera, pink conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: inspiratory crackles in the LLL, no decreased breath
sounds or wheezing appreciated 
ABDOMEN: nondistended, well healed former PEG insertion site,
nontender in all quadrants, no rebound/guarding 
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, no spinal
tenderness to palpation, sensation intact in lower extremities,
able to flex feet without pain 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM
24 HR Data (last updated ___ @ 607)
    Temp: 98.3 (Tm 98.4), BP: 133/50 (117-133/47-58), HR: 67
(66-68), RR: 16 (___), O2 sat: 96% (91-100), O2 delivery: ra  
GENERAL: NAD, A/Ox3 
HEENT: NC/AT, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, holosystolic murmur at apex with radiation to
axilla and carotids, no gallops or rubs  
LUNGS: CTAB in anterior fields
ABDOMEN: nondistended, well healed former PEG insertion site,
nontender in all quadrants, no rebound/guarding 
EXTREMITIES: no cyanosis, clubbing, or edema, faint DP pulses  
NEURO: A&Ox3, grossly intact, sensation intact in lower
extremities, full exam limited by HD
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

 
Pertinent Results:
ADMISSION LABS
====================
___ 06:08PM BLOOD WBC-6.9 RBC-3.73* Hgb-8.9* Hct-30.1* 
MCV-81* MCH-23.9* MCHC-29.6* RDW-21.8* RDWSD-59.7* Plt ___
___ 06:08PM BLOOD Neuts-63.5 Lymphs-11.7* Monos-19.5* 
Eos-3.5 Baso-0.6 Im ___ AbsNeut-4.40 AbsLymp-0.81* 
AbsMono-1.35* AbsEos-0.24 AbsBaso-0.04
___ 06:08PM BLOOD ___ PTT-36.5 ___
___ 06:08PM BLOOD Glucose-81 UreaN-30* Creat-4.6*# Na-137 
K-3.8 Cl-92* HCO3-26 AnGap-19*
___ 11:01AM BLOOD ALT-19 AST-28 LD(LDH)-161 AlkPhos-117 
TotBili-0.2
___ 11:01AM BLOOD Albumin-2.5* Calcium-8.3* Phos-5.1* 
Mg-1.8 UricAcd-3.9
___ 11:01AM BLOOD TSH-6.8*

IMAGING
=======
___ MRI SPINE without contrast
(wet read)

___ CXR
IMPRESSION:  
Moderate cardiomegaly is again seen.  The left pleural effusion 
has decreased in volume.  There is near complete atelectasis of 
the left lower lobe.  The main pulmonary artery is mildly 
prominent, unchanged.  No pneumothorax is seen.  The aorta is 
unfolded and tortuous.  There is evidence of atherosclerotic 
calcification involving the arch of aorta 

___ CT-GUIDED THORACENTESIS
1. Limited pre-procedure CT scan of the lower chest 
re-demonstrated a small loculated left pleural effusion.  
Postprocedure scan demonstrated a small amount of residual 
pleural fluid, with a small amount of expected pleural gas 
related to the procedure. 
  
IMPRESSION:  
Technically successful CT-guided diagnostic thoracentesis.  
Aspirate was sent for culture, cytology, chemistry and 
microbiology. 

PERTINENT RESULTS
=================
___ 06:08PM BLOOD C3-133 C4-71*
___ 06:08PM BLOOD ___ Titer-1:40* dsDNA-NEGATIVE
___ 04:30AM BLOOD CRP-122.6*
___ 06:08PM BLOOD ANCA-NEGATIVE B

DISCHARGE LABS
==============
___ 06:18AM BLOOD WBC-8.4 RBC-3.45* Hgb-8.1* Hct-27.5* 
MCV-80* MCH-23.5* MCHC-29.5* RDW-20.8* RDWSD-58.5* Plt ___
___ 06:18AM BLOOD Glucose-74 UreaN-42* Creat-6.9*# Na-140 
K-4.7 Cl-95* HCO3-27 AnGap-18

 
Brief Hospital Course:
PATIENT SUMMARY
===================
___ yo M with ESRD on HD (MWF), cricopharyngeal hypertrophy, 
HFpEF, history pericardial tamponade (s/p drain ___, and 
recent admission for culture-negative presumed osteomyelitis of 
L4/L5 treated with 6 weeks broad spectrum abx. Presented with 
persistent back pain and L. pleural fluid on imaging, his 
antbiotics were extended to a ___nd his pleural 
fluid was sampled for infectious etiologies.

# Culture negative osteomyelitis: 
Patient presented from ID followup with culture-negative 
osteomyelitis at L4-L5 with epidural thickening but no abscess, 
and repeat imaging on admission did not show interval worsening. 
CRP remained elevated at time of OP follow up and his persistent 
back pain warranted admission for further work up. Exam with low 
concern for cauda equine or new cord compression. Ortho-spine 
was consulted, recommended against procedure or biopsy. 
Infectious disease was consulted recommending antibiotic course 
extended to 12 week course with vancomycin/ceftazidime. Testing 
was negative for Cryptococcal antigen or signs of infectious 
growth on blood cultures. Quantiferon gold results pending at 
time of discharge. Further sampling of pleural fluid was 
performed as below. 

# Loculated fluid collection in LLL:
# Atelectasis of LLL: 
Seen on admission MRI, re-demonstrated on CXR and Chest CT, 
patient with crackles on auscultation of left lower lung field. 
Patient reported chronic cough, with minimal sputum production. 
Had had pleural effusions and pneumonia in the left lower lobe 
on previous admissions. CT-guided thoracentesis was performed 
and collected a transudate with polymorphonuclear cells but no 
evidence of bacteria or fungal pathogens on staining. Fungal and 
bacterial cultures as well as AFB and ___ studies pending at 
time of discharge.

# Pain control: 
Pain acceptable at rest, but worst with movement. Pain well 
controlled on fentanyl patch at rehab (started ___. Pain 
controlled while inpatient with fentanyl, tylenol, lidocaine 
patch, and PO oxycodone. 

# Elevated CRP/ESR: 
In the interval between discharge and readmission, CRP rose to 
190s, was 113 on admission, despite 6wk course broad spectrum 
antibiotics. Elevated to 122.6 while inpatient. Other localizing 
symptom is cough and LLL infiltrate on CXR further investigated 
with CHEST CT and thoracentesis as above. Malignancy could not 
be excluded. No colonoscopy on file, PSA in ___ was 2.92. Last 
colonoscopy ___, reported normal per patient.

CHRONIC ISSUES
==============

# ESRD: 
ESRD ___ long-standing HTN on HD MWF through LUE AV-fistula 
since ___. Thrill palpable. HD continued MWF. Continued 
cinacalcet, nephrocaps.

# Cricopharyngeal spasm: 
Evaluated in ___, diagnosis of exclusion. Patient 
was started on tube feeds via PEG, which fell out a couple of 
months ago and was not replaced due to improved swallowing 
function. Continued nectar thick liquids, regular solids, Nepro 
with meals.

#GASTRITIS
Continued home omeprazole. Was having intermittent epigastric 
pain and started on daily ranitidine.

#Anemia: 
Likely in setting of ESRD. Monitored, stable.

TRANSITIONAL ISSUES: 
==================
NEW MEDICATIONS: Lidocaine 5% patch, Ranitidine 75 mg
CHANGED MEDICATIONS: Tylenol ___ mg Q6H PRN to 1000 mg TID

PERTINENT RESULTS:
CRP ___: 122.6

- QWEEKLY CRP, fax results to Dr. ___ at ___ 
- Tylenol 1 gm TID, oxycodone 2.5-5 mg Q6H PRN for moderate 
pain, lidocaine patch QAM to lower back
- fentanyl patch 25 mcg/hr, to be changed Q72H (next change 
___ 
- ID follow up ___ at 3PM with Dr. ___
- f/u pleural fluid studies: Bacterial and fungal cultures, AFB, 
___.
- f/u Quantiferon Gold
- Vancomycin 1000 mg IV with HD
- Ceftazidime IV 2g Post HD M/W and 3g Post HD ___.
- If ongoing pain concerns, please discuss using 100 mg 
ibuprofen PRN daily with nephrology

#CODE: Full (presumed) 
#CONTACT: ___, ___ or daughter in law ___ 
___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
3. Allopurinol ___ mg PO EVERY OTHER DAY 
4. amLODIPine 2.5 mg PO QPM 
5. Atorvastatin 40 mg PO QPM 
6. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
7. Cinacalcet 30 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID:PRN constipation 
9. Mirtazapine 7.5 mg PO QHS 
10. Nephrocaps 1 CAP PO DAILY 
11. Omeprazole 20 mg PO BID 
12. Senna 8.6 mg PO BID:PRN constipation 
13. Salonpas (methyl salicylate-menthol) ___ % topical unknown 
14. CefTAZidime 2 g IV POST HD (MO,WE) 
15. CefTAZidime 3 g IV POST HD (FR) 
16. Vancomycin 1000 mg IV HD PROTOCOL 
17. Nystatin Oral Suspension 5 mL PO QID:PRN oral thrush 
18. OxyCODONE (Immediate Release) 5 mg PO Q6H 
19. Fentanyl Patch 25 mcg/h TD Q72H 
20. Venlafaxine 75 mg PO DAILY 

 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine [Lidoderm] 5 % Place on lower back QAM Disp #*7 
Patch Refills:*0 
2.  Ranitidine 75 mg PO DAILY16 
RX *ranitidine HCl 75 mg 1 tablet(s) by mouth Daily at 1600 Disp 
#*30 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Allopurinol ___ mg PO EVERY OTHER DAY  
5.  amLODIPine 2.5 mg PO QPM  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
9.  CefTAZidime 2 g IV POST HD (MO,WE)  
10.  CefTAZidime 3 g IV POST HD (FR) 
   
11.  Cinacalcet 30 mg PO DAILY  
12.  Docusate Sodium 100 mg PO BID:PRN constipation  
13.  Fentanyl Patch 25 mcg/h TD Q72H 
RX *fentanyl 25 mcg/hour Place one Q72H Disp #*2 Patch 
Refills:*0 
14.  Mirtazapine 7.5 mg PO QHS  
15.  Nephrocaps 1 CAP PO DAILY  
16.  Nystatin Oral Suspension 5 mL PO QID:PRN oral thrush  
17.  Omeprazole 20 mg PO BID  
18.  OxyCODONE (Immediate Release) 5 mg PO Q6H 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6H PRN Disp #*28 Tablet 
Refills:*0 
19.  Salonpas (methyl salicylate-menthol) ___ % topical unknown 
 
20.  Senna 8.6 mg PO BID:PRN constipation  
21.  Vancomycin 1000 mg IV HD PROTOCOL  
22.  Venlafaxine 75 mg PO DAILY  
23.Outpatient Lab Work
ICD10: M86.1 QWEEKLY CRP, fax results to Dr. ___ at 
___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Chronic Osteomyelitis L4/L5
Left sided pleural effusion

SECONDARY DIAGNOSES
End stage renal disease on hemodialysis
Hypertension
Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

Why was I admitted to the hospital?
-You were admitted for back pain concerning for an ongoing bone 
infection and fluid around your lung.

What was done for me in the hospital?
-You had pictures taken of your back. They showed no change from 
the last pictures of your back. This means that your back 
infection probably did not get worse. 
-You were found to have fluid in your left lung, we took some of 
that fluid to run some tests.

What should I do when I leave the hospital?
- Please take all of your medicines as prescribed, and attend 
all follow up appointments. 

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___